US08236835B2
Synthesis of 2-(3-(4-fluorobenzyl)-2-oxopyrrolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
A mixture of 3-(4-fluorobenzyl)pyrrolidin-2-one (0.074 g, 0.39 mmol), 2-bromo-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide (0.10 g, 0.32 mmol), cesium carbonate (0.16 g, 0.48 mmol), [1,1′-bis(diphenylphosphino)ferrocene]-dichloropalladium(II) complex with dichloromethane (1:1) (0.005 g, 0.006 mmol) and xantphos (0.007 g, 0.013 mmol) in anhydrous toluene (2 mL) was subjected to microwave irradiation at 80° C. for 35 min. The reaction mixture was concentrated in vacuo and the residue was purified by column chromatography (ethyl acetate/hexanes (3/1)) to afford the title compound as a white solid (0.045 g, 33%): mp 169-170° C. (hexanes/ethyl acetate); 1H NMR (300 MHz, CDCl3) δ 8.59 (s, 1H), 8.52 (d, J=4.5 Hz, 1H), 7.68 (d, J=8.0 Hz, 1H), 7.30-7.23 (m, 1H), 7.14 (dd, J=8.0, 5.5 Hz, 2H), 6.95 (t, J=8.8 Hz, 2H), 6.16 (t, J=5.6 Hz, 1H), 4.59 (d, J=5.6 Hz, 2H), 4.07-3.95 (m, 1H), 3.92-3.79 (m, 1H), 3.20 (dd, J=13.9, 4.5 Hz, 1H), 3.07-2.93 (m, 1H), 2.83-2.74 (m, 1H), 2.61 (s, 3H), 2.32-2.18 (m, 1H), 1.98-1.82 (m, 1H); 13C NMR (75 MHz, CDCl3) δ 174.8, 163.4, 162.5, 155.5, 153.2, 149.3, 149.1, 135.7, 133.8, 133.7, 130.4, 123.7, 118.2, 115.6, 45.9, 44.4, 41.5, 35.6, 24.2, 17.3; MS (ES+) m/z 425.3 (M+1).

reactant | 3-(4-fluorobenzyl)pyrrolidin-2-one | 0.39 mmol, 0.074 g | FC1=CC=C(CC2C(NCC2)=O)C=C1 | C11H12FNO
reactant | 2-bromo-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 0.32 mmol, 0.10 g | BrC=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1 | C11H10BrN3OS
reactant | cesium carbonate | 0.48 mmol, 0.16 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dichloromethane | 0.006 mmol, 0.005 g | ClCCl | CH2Cl2
reactant | xantphos | 0.013 mmol, 0.007 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 2-(3-(4-fluorobenzyl)-2-oxopyrrolidin-1-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 0.045 g, 33% | FC1=CC=C(CC2C(N(CC2)C=2SC(=C(N2)C)C(=O)NCC=2C=NC=CC2)=O)C=C1 | C22H21FN4O2S
